US07459451B2
[1-Ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (57 mg), toluene (0.3 ml), 50% aqueous NaOH solution and tetrabutylammonim sulfate (32 mg) were stirred at room temperature. tert-Butyl bromoacetate (53 mg) was added dropwise and stirring was continued for 2 hours. Water (3 ml) was added and organic layer was separated. Water layer was extracted with EtOAc (×2). Organic layer was combined and dried over MgSO4. The solvent was evaporated to give dark brown oil. The crude compound was purified by flash column chromatography on silica gel (CHCl3:MeOH=50:1) to give tert-butyl {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetate (53 mg) as colorless oil

reactant | [1-Ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 57 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CO)COC | C17H20N4O2
reactant | NaOH | [OH-].[Na+]
reactant | sulfate | 32 mg | S(=O)(=O)([O-])[O-]
reactant | tert-Butyl bromoacetate | 53 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | Water | 3 ml | O | H2O
solvent | toluene | 0.3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl {[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]methoxy}acetate | 53 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)COCC(=O)OC(C)(C)C)COC | C23H30N4O4
